US07056935B2
Synthesis of 3-Phenyl-1-propyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate
A mixture of 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylic acid (590 mg; 2.31 mmol), 3-phenylpropanol (520 mg; 3.71 mmol), dicyclohexylcarbodiimide (815 mg; 3.95 mmol), camphorsulphonic acid (180 mg; 0.77 mmol) and 4-dimethyl aminopyridine (95 mg; 0.77 mmol) in methylene chloride (15 mL) was stirred overnight under a nitrogen atmosphere. The reaction mixture was filtered through Celite to remove solids and concentrated in vacuo. The crude material was triturated with several portions of ether, and the ether portions were filtered through Celite to remove solids and concentrated in vacuo. The concentrated filtrate was purified on a flash column (20% ethyl acetate in hexane) to obtain 800 mg (93%) of the product as an oil, 1H NMR (CDCl3, 300 MHz): δ 0.85 (t, 3H); 1.23,1.26 (s, 3H each); 1.63–1.94 (m, 9H); 2.32 (m, 1H); 2.69 (m, 2H); 3.21 (m, 1H); 3.35 (m, 1H); 4.17 (m, 2H); 5.24 (m, 1H); 7.14 (m, 3H); 7.7.23 (m, 2H).

reactant | 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylic acid | 2.31 mmol, 590 mg | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)O | C13H21NO4
reactant | 3-phenylpropanol | 3.71 mmol, 520 mg | C1(=CC=CC=C1)CCCO | C9H12O
reactant | dicyclohexylcarbodiimide | 3.95 mmol, 815 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | camphorsulphonic acid | 0.77 mmol, 180 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-1-propyl 1-(1,2-dioxo-3,3-dimethylpentyl)-2-piperidinecarboxylate | 800 mg, 93% | O=C(C(C(CC)(C)C)=O)N1C(CCCC1)C(=O)OCCCC1=CC=CC=C1 | C22H31NO4
